US05643932
8.5 g of trifluoromethanesulfonic acid anhydride was added to a solution of 10 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxyphenyl)-thiazole dissolved in 100 ml of dichloromethane. Thereto was dropwise added 6 ml of triethylamine with stirring under ice-cooling. The reaction mixture was stirred at room temperature for 2 hours. Thereto was added 40 ml of water for phase separation. The organic layer was dried and subjected to distillation to remove the solvent. The residue was recrystallized from ethanol to obtain 12.7 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-trifluoromethanesulfonyloxyphenyl)thiazole as a white powder.

reactant | trifluoromethanesulfonic acid anhydride | 8.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxyphenyl)-thiazole | 10 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)O)C(=O)OC | C21H21NO5S
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-trifluoromethanesulfonyloxyphenyl)thiazole | 12.7 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C(=O)OC | C22H20F3NO7S2
